US07585891B2
Step B Synthesis of 2,2-dimethylbenzo[3,4-d]1,3-dioxolan-5-yl acetate as an Intermediate
Under a nitrogen atmosphere, stirred solution of 3.3 grams (0.022 mole) of 2,2-dimethylbenzo[d]1,3-dioxolane and 19.5 grams (0.044 mole) of lead tetraacetate in 100 mL of acetic acid was warmed to 80° C. where it was maintained during an 18 hour period. After this time the reaction mixture was cooled to ambient temperature and concentrated under reduced pressure to a residue. The residue was dissolved in 500 mL of ethyl acetate and washed with 250 mL of water. The water layer was in turn washed with two 150 mL portions of ethyl acetate. The combined ethyl acetate layer and washes were dried with sodium sulfate, filtered, and the filtrate was concentrated under reduced pressure to a residue. The residue was purified with column chromatography on silica gel using petroleum ether and finally 1% diethyl ether in petroleum ether as eluants. The appropriate fractions were combined and concentrated under reduced pressure, yielding 0.6 gram of the subject compound. The NMR spectrum was consistent with the proposed structure.

reactant | 2,2-dimethylbenzo[d]1,3-dioxolane | 0.022 mole, 3.3 grams | CC1(OC2=C(O1)C=CC=C2)C | C9H10O2
reactant | lead tetraacetate | 0.044 mole, 19.5 grams | C(C)(=O)[O-].C(C)(=O)[O-].C(C)(=O)[O-].C(C)(=O)[O-].[Pb+4]
solvent | acetic acid | 100 mL | C(C)(=O)O | C2H4O2
product | 2,2-dimethylbenzo[3,4-d]1,3-dioxolan-5-yl acetate | 0.6 gram | C(C)(=O)OC1=CC2=C(OC(O2)(C)C)C=C1 | C11H12O4
